US08022223B2
Step A: Preparation of (2R)-ethyl 2-methyl-5-(propan-2-ylidene)cyclopentanecarboxylate:
To a 3 L round bottom flask was added (r)-Pulegone (300 g, 1.97 mol), anhydrous NaHCO3 (82 g, 0.99 mol) and Ether (1.5 L). The mixture was cooled to −5° C. ice-salt bath under N2. Then bromine (101 mL, 1.97 mol) was added dropwise over 45 minutes. The mixture was filtered and carefully added dropwise (addition is exothermic in nature) to NaOEt (20 wt %, 4.3 mol) cooled at 0° C. The reaction was allowed to stir with warming to ambient temperature overnight. Then 1L of 5% HCl and 300 mL of ether was added. The aqueous phase was extracted with ether and the combined organic layers washed with brine, dried with MgSO4− and concentrated. The resulting brown oil diluted with EtOH was added to a warm solution of semicarbazide HCl (150 g, 1.3 mol), NaOAc (150 g, 1.8 mol) and H2O (2 L) to give a brownish solution. The mixture was then refluxed for 3 hours and stirred at ambient temperature overnight. The mixture was treated with 1 L of water and 500 mL of ether. The aqueous phase was extracted with ether. The combined organic layers were dried with MgSO4 and concentrated to give a brown oil. The oil was subject to vacuum distillation, and the title compound (247 g, 64% yield) was collected at 73-76° C.

reactant | (r)-Pulegone | 1.97 mol, 300 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | NaHCO3 | 0.99 mol, 82 g | C(=O)(O)[O-].[Na+]
reactant | bromine | 1.97 mol, 101 mL | BrBr | Br2
reactant | NaOEt | 4.3 mol | CC[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | semicarbazide HCl | 1.3 mol, 150 g | Cl.NNC(=O)N
reactant | NaOAc | 1.8 mol, 150 g | CC(=O)[O-].[Na+]
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | water | 1 L | O | H2O
solvent | H2O | 2 L | O | H2O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | Ether | 1.5 L | CCOCC | C4H10O
product | (2R)-ethyl 2-methyl-5-(propan-2-ylidene)cyclopentanecarboxylate | 247 g, 64% yield | C[C@H]1C(C(CC1)=C(C)C)C(=O)OCC | C12H20O2
